US07534788B2
Step 1: a] 6-Methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester
To a solution of methyl thioglycolate (1.29 mL, 14 mmol, 1.1 eq.) in 22 mL of DMSO was added Nail 50% (0.972 g, 20 mmol, 1.56 eq.) and the mixture was stirred for 5 Min., before 2-fluoro-4-methoxybenzaldehyde (2.00 g, 13 mmol) was added (strongly exothermic). When the internal temperature had reached again 25° C., the reaction mixture was poured onto crashed ice and the precipitate filtered off, washed with water, and dried to obtain 1.896 g of the title compound as light yellow crystals.

reactant | methyl thioglycolate | 14 mmol, 1.29 mL, 1.1 eq. | C(CS)(=O)OC | C3H6O2S
reactant | 2-fluoro-4-methoxybenzaldehyde | 13 mmol, 2.00 g | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
solvent | DMSO | 22 mL | CS(=O)C | C2H6OS
product | 6-Methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester | 1.896 g | COC(=O)C1=CC2=C(S1)C=C(C=C2)OC | C11H10O3S
